US07728023B2
To a dichloromethane (2 mL) solution of 7-bromo-1-methyl-1H-indole-2-carboxylic acid (200 mg), oxalyl dichloride (0.10 mL) and N,N-dimethylformamide (5 mL) were added and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated, azeotroped twice with toluene to obtain a crude product of 7-bromo-1-methyl-1H-indole-2-carboxylic acid chloride. Separately, a solution was prepared by dissolving 2M trimethylsilyldiazomethane (0.60 mL) and trimethylamine (0.16 mL) in tetrahydrofuran (2 mL)-acetonitrile (2 mL) and a tetrahydrofuran (1 mL)acetonitrile (1 mL) solution of 7-bromo-1-methyl-1H-indole-2-carboxylic acid chloride was added thereto, and then the mixture was stirred at room temperature for 4 hours. To the reaction mixture, an aqueous saturated ammonium chloride solution was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous sodium sulfate and then concentrated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=90:10 85:15) to obtain the titled compound having the following physical properties (72 mg).

reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
reactant | 7-bromo-1-methyl-1H-indole-2-carboxylic acid | 200 mg | BrC=1C=CC=C2C=C(N(C12)C)C(=O)O | C10H8BrNO2
reactant | oxalyl dichloride | 0.10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 7-bromo-1-methyl-1H-indole-2-carboxylic acid chloride | BrC=1C=CC=C2C=C(N(C12)C)C(=O)Cl | C10H7BrClNO
